US04521426
Part A: Preparation of 2-(1-Naphthoxy)-5-Nitropyridine
To a solution of 17.0 g. (0.107 mol.) of 2-chloro-5-nitro pyridine in 250 ml of DMF was added 15.4 g. (0.112 mol.) of potassium carbonate and 15.5 g. (0.107 mol.) of 1-naphthol. The resulting mixture was heated up to 125° C. for 3 hours. Additional potassium carbonate (1.5 g., 0.011 mol.) was added. This mixture was continued heating for 7 hours, cooled, and concentrated to give a black gummy product. It was then dissolved in 200 ml. of ethyl acetate. Florisil (60-100 mesh, 40 g.) was added to the above solution and the resulting mixture was concentrated to give brown powder. This material was packed on top of a column (450 g. florisil in hexane). Elution with hexane/ethyl acetate (96:4) gave 14.3 g. (0.054 mol., 50.3% of bright yellow crystals; mp. 87.3°-89.3° C.

reactant | 2-chloro-5-nitro pyridine | 0.107 mol | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 0.112 mol | C([O-])([O-])=O.[K+].[K+]
reactant | 1-naphthol | 0.107 mol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | potassium carbonate | 0.011 mol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Florisil | 40 g | [O-][Si](=O)[O-].[Mg+2]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1-Naphthoxy)-5-Nitropyridine | C1(=CC=CC2=CC=CC=C12)OC1=NC=C(C=C1)[N+](=O)[O-] | C15H10N2O3
